US05859053
b) 2,3-Dihydroxy-propyl 2-acetoxybenzoate
The solution from 2,2-dimethyl-[1,3]dioxolan-4-yl-methyl 2-acetoxybenzoate (5.7 g, 19.4 mmol) in dichloromethane (50 ml) is treated with trifluoroacetic acid (10 ml). After 3 h, the mixture is concentrated in vacuo, the residue is taken up in toluene (30 ml) and the solution is concentrated. The residue is purified by flash chromatography (gradient hexane/ethyl acetate=3/1→2/1 →1/1). Yield: 2.96 g.

reactant | 2,2-dimethyl-[1,3]dioxolan-4-yl-methyl 2-acetoxybenzoate | 19.4 mmol, 5.7 g | C(C)(=O)OC1=C(C(=O)OCC2OC(OC2)(C)C)C=CC=C1 | C15H18O6
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,3-Dihydroxy-propyl 2-acetoxybenzoate | C(C)(=O)OC1=C(C(=O)OCC(CO)O)C=CC=C1 | C12H14O6
